US08648066B2
A solution of N-[5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-yl]benzamide (84 mg, 0.14 mmol) in 70% aqueous sulfuric acid (2 mL) was heated to reflux for thirty minutes. On cooling to room temperature the pH of the mixture was adjusted to ˜5 by the addition of 50% aqueous sodium hydroxide. Concentration and purification by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) provided 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-amine (26 mg, 37%). 1H NMR (400 MHz, d6-DMSO): 8.44 (d, 1H), 8.36 (s, 1H), 8.08 (d, 1H), 8.01 (br s, 2H), 7.52 (dd, 1H), 7.16-7.10 (m, 4H), 7.00 (d, 1H), 6.90 (d, 1H), 4.48 (s, 2H), 4.28 (m, 2H), 3.96 (s, 2H), 3.76 (m, 2H), 2.14 (s, 3H). MS (EI) for C27H23FN6OS: 499 (MH+).

reactant | N-[5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-yl]benzamide | 0.14 mmol, 84 mg | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C1C(=N2)SC(=N1)NC(C1=CC=CC=C1)=O | C34H27FN6O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)[1,3]thiazolo[5,4-b]pyridin-2-amine | 26 mg, 37% | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C1C(=N2)SC(=N1)N | C27H23FN6OS
